US08022225B2
Methyl isothiocyanate (683 mg) was added, at room temperature, to an ethanol (85 ml) solution of the 4-chloro-N-[1-(hydrazinocarbonyl)butyl]benzenesulfonamide (2.596 g) obtained in Example 1-(2). The mixture was stirred for 30 minutes, and then stirred for 2 hours under reflux conditions. The solvent was distilled off from the reaction mixture to obtain a solid. The solid was washed with chloroform (100 ml), and then dried to obtain 2-(2-{[(4-chlorophenyl)sulfonyl]amino}pentanoyl)-N-methylhydrazine carbothioamide (2.868 g).

reactant | Methyl isothiocyanate | 683 mg | CN=C=S | C2H3NS
reactant | 4-chloro-N-[1-(hydrazinocarbonyl)butyl]benzenesulfonamide | 2.596 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(CCC)C(=O)NN | C11H16ClN3O3S
solvent | ethanol | 85 ml | C(C)O | C2H6O
product | 2-(2-{[(4-chlorophenyl)sulfonyl]amino}pentanoyl)-N-methylhydrazine carbothioamide | 2.868 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NNC(NC)=S)CCC | C13H19ClN4O3S2
